US09227971B2
Step 2: Preparation of 3-hydroxy-1H-pyrazole-4-carboxylic acid
A solution of ethyl 3-hydroxy-1H-pyrazole-4-carboxylate (625 mg, 4.00 mmol) in 10% NaOH (aq) (20 mL) and EtOH (10 mL) was heated under reflux for 20 h. EtOH was removed under reduced pressure. The residue was diluted with 10 mL of H2O and acidified with 4 N HCl. The precipitates were filtered to afford the titled compound as a white solid (460 mg), which was used without further purification.

reactant | ethyl 3-hydroxy-1H-pyrazole-4-carboxylate | 4.00 mmol, 625 mg | OC1=NNC=C1C(=O)OCC | C6H8N2O3
solvent | NaOH | 20 mL | [OH-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-hydroxy-1H-pyrazole-4-carboxylic acid | 460 mg | OC1=NNC=C1C(=O)O | C4H4N2O3
